US07777047B2
N-methyl-N-{2-[5-(morpholinocarbonyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a mixture of 2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxylic acid (0.25 g), morpholine (0.10 g), 1H-1,2,3-benzotriazol-1-ol (0.10 g) and N,N-dimethylformamide (4 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.14 g) at room temperature, and the mixture was stirred overnight at room temperature. Water was added to the reaction mixture, and the precipitated solid was collected by filtration, washed with water, and dried. The obtained solid was subjected to basic silica gel column chromatography to give the title compound (0.25 g, yield 86%) as pale-yellow crystals from a fraction eluted with tetrahydrofuran. melting point 238-239° C.

reactant | 2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxylic acid | 0.25 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)C(=O)O)S(=O)(=O)C=1SC=CC1 | C17H15N3O4S3
reactant | morpholine | 0.10 g | N1CCOCC1 | C4H9NO
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.10 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.14 g | Cl.CN(CCCN=C=NCC)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-methyl-N-{2-[5-(morpholinocarbonyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.25 g, yield 86% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)C(=O)N1CCOCC1 | C21H22N4O4S3
